US07642264B2
2-Chloro-4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(3,4-dichloro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one (5.72 g, 18.5 mmol) and phosphoryl chloride (60 mL) according to the general procedure I. Obtained as a white solid (6.04 g, 99%). MS (EI) 326.0 [(M)+]; mp 82° C.

reactant | 4-(3,4-dichloro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one | 18.5 mmol, 5.72 g | ClC=1C=C(C=CC1Cl)C1=NC(NC(=C1)C(F)(F)F)=O | C11H5Cl2F3N2O
reactant | phosphoryl chloride | 60 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C(F)(F)F | C11H4Cl3F3N2
